Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Zosyn
 
Attending: ___
 
Chief Complaint:
Lower Extremity Swelling
 
Major Surgical or Invasive Procedure:
Transjugular Liver Biopsy ___

 
History of Present Illness:
___ w/ hx of HCV cirrhosis and HCC s/p DDLT ___ course c/b
bilateral PEs, recently admitted on ___ for
persistent nausea, vomiting, poor PO intake, and ___ and on
___ for acute onset SOB and on ___ for
confusion and abnormal labs. 

Patient presents accompanied by his wife complaining of lower
extremity edema. Reports his legs are more swollen than they 
have
ever been. Denies pain in his legs. Denies SOB,CP. Reports
increasing abdominal distention as well for the past 4 days.
Denies nausea, vomiting, diarrhea. Last normal bowel movement
today. 

Reports that after his last discharge he was feeling well at
home. On last visit with his transplant clinic on ___, LFTs
were slightly elevated but in the same range as when he was
discharged on ___. 

He was referred for admission for worsening ___ edema and 
referral
from patient's transplant team for possible transjugular liver
biopsy while inpatient.

In the ED, initial VS were: 97.9 64 105/58 10 100% RA  

Exam notable for:
General: NAD, accompanied by wife
Cardiac: Regular rate and rhythm, no M/R/G
Lungs: CTA ___
Abdomen: Distended, firm, nontender in all quadrants, no 
rebound,
no appreciable fluid wave.
Extremities: 2+ pitting edema in bilateral lower extremities.
Legs xerotic with flaking. 
 
Labs showed:  

___  35  104   AGap=13 
------------- 
4.8  25  1.4 

ALT: 96 AP: 73 Tbili: 0.3 Alb: 4.2 
AST: 57 

___: 25.4  PTT: 44.3  INR: 2.3  

proBNP: 445

Lactate:1.2

Imaging: 
Bedside ultrasound of abdomen showed very little fluid in the
right lower quadrant. No appreciable ascites.
 
Hepatology was consulted who recommended admission to ET 

Transfer VS were: 97.9 64 105/58 10 100% RA 

On arrival to the floor, patient reports that he has been having
worsening ___ edema for the past 3 days. He has been taking PO
Lasix that was prescribed from his PCP, but has not had much
effect in his ___ edema. He is unsure what dose of Lasix he was
taking. Also states that his wife thinks he's been "more off,"
but he states he does not feel confused. He endorses taking
marijuana edibles, last took one today. He admits to missing
doses of his tacrolimus as well at times. Denies any fevers,
chills, N/V, sore throat, cough, abdominal pain, chest pain,
dyspnea, orthopnea, PND.
 
REVIEW OF SYSTEMS:  
10 point ROS reviewed and negative except as per HPI  

 
Past Medical History:
Hepatitis C viral infection genotype 2, complicated by liver 
cirrhosis and HCC, history of Lyme's disease ___ years ago, and 
recent history of pneumonia
.
Past Surgical History:  
component separation and ventral hernia repair with mesh with
Dr. ___ on ___ c/b abscess requiring ___ drainage now
removed
-RFA to segment 8 HCC (2.0 x 1.8. x 1.2 cm ) ___
-several jaw reconstructive surgeries including using left 
fibula
graft
-R Achilles tendon repair
- Liver transplant ___
 
Social History:
___
Family History:
Father alive in his ___
Mother died from complications of blood clot in her ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
VS: 97.9 133/84 69 18 95% RA
Weight: 118.4kg
GENERAL: in no acute distress
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: soft, distended, nontender. No rebound, guarding, or
rigidity
EXTREMITIES: 2+ pitting edema  
NEURO: A&Ox3, facial droop. No asterixes. Voving all 4
extremities with purpose  
SKIN: warm and well perfused

DISCHARGE PHYSICAL EXAM:
VS: T:98.4 BP:120/70 P:73 RR:18 POx:96% on RA .    
Weight: 111.95 kg  (118.29 on admission)
UOP: 1400 cc on ___
GENERAL: Middle-aged man, comfortably laying in bed in no acute
distress
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: soft, normal bowel sounds, distended, nontender. No
rebound, guarding, or rigidity
EXTREMITIES: No edema, no clubbing, no cyanosis. TEDS on. 
NEURO: A&Ox3, facial droop. No asterixis. Moving all 4
extremities with purpose  
SKIN: warm and well perfused, no jaundice, no rashes. No 
evidence
of lower extremity stasis dermatitis

 
Pertinent Results:
Admission Labs: ___ 09:08PM
================
WBC-3.2* RBC-2.83* Hgb-9.1* Hct-27.4* MCV-97 MCH-32.2* MCHC-33.2 
RDW-12.8 RDWSD-45.2 Plt ___ Neuts-58.1 Lymphs-22.5 
Monos-13.8* Eos-4.1 Baso-0.6 Im ___ AbsNeut-1.86 
AbsLymp-0.72* AbsMono-0.44 AbsEos-0.13 AbsBaso-0.02
___ PTT-44.3* ___
Glucose-104* UreaN-35* Creat-1.4* Na-145 K-4.8 Cl-107 HCO3-25 
AnGap-13
ALT-96* AST-57* AlkPhos-73 TotBili-0.3
Albumin-4.2 Calcium-9.1 Phos-3.8 Mg-1.8
BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG Bnzodzp-NEG Barbitr-NEG 
Tricycl-NEG
Lactate-1.2
proBNP-445*

Pertinent Labs:
===============
___ 10:36AM BLOOD TSH-1.9
___ 09:08PM BLOOD tacroFK-6.4
___ 06:21AM BLOOD tacroFK-9.4
___ 06:35AM BLOOD tacroFK-11.8

___ 06:21AM BLOOD CMV VL-NOT DETECT
___ 06:21AM BLOOD HCV VL-7.3*

IMAGING:
========
Chest XRay ___:
COMPARISON:  Chest radiograph ___.   
FINDINGS:  There is bilateral low lung volumes.No large pleural 
effusion or pneumothorax. Left retrocardiac atelectasis is 
noted.  There is minimal pulmonary vascular congestion.  
Enlarged cardiomediastinal contours are likely due to the AP 
view. 
IMPRESSION:  Left retrocardiac atelectasis.  Minimal pulmonary 
vascular congestion. 

Liver Ultrasound ___:
IMPRESSION: 
1. Patent transplant hepatic vasculature. 
2. Mild splenomegaly. 

Surface Echocardiogram ___:
Conclusions: The right atrium is moderately dilated. There is 
mild symmetric left ventricular hypertrophy. The left 
ventricular cavity size is top normal/borderline dilated. 
Overall left ventricular systolic function is normal (LVEF>55%). 
The estimated cardiac index is normal (>=2.5L/min/m2). There is 
no ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The aortic root is mildly dilated 
at the sinus level. The ascending aorta is mildly dilated. The 
aortic arch is mildly dilated. The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion and no 
aortic stenosis or aortic regurgitation. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. Mild (1+) mitral regurgitation is seen. [Due to 
acoustic shadowing, the severity of mitral regurgitation may be 
significantly UNDERestimated.] There is borderline pulmonary 
artery systolic hypertension. There is no pericardial effusion. 

Compared with the prior study (images reviewed) of ___, 
the aorta is more dilated and the left ventricular cavity size 
is larger. 

DISCHARGE LABS:
===============
___ 06:34AM BLOOD WBC-2.9* RBC-2.87* Hgb-9.0* Hct-27.4* 
MCV-96 MCH-31.4 MCHC-32.8 RDW-12.6 RDWSD-43.6 Plt ___
___ 06:34AM BLOOD ___ PTT-55.6* ___
___ 06:34AM BLOOD Glucose-112* UreaN-22* Creat-1.3* Na-143 
K-4.6 Cl-104 HCO3-26 AnGap-13
___ 06:34AM BLOOD ALT-78* AST-42* AlkPhos-59 TotBili-0.5
___ 06:34AM BLOOD Albumin-3.7 Calcium-8.9 Phos-3.6 Mg-1.8
___ 06:34AM BLOOD tacroFK-8.4

 
Brief Hospital Course:
SUMMARY:
=========
Mr. ___ is a ___ year-old man with a history of HCV 
cirrhosis and HCC s/p DDLT ___ course c/b bilateral PEs who 
presents for ___ edema and transaminitis

ACTIVE ISSUES:
==============
#Abdominal Distention
___ edema
Worsening pitting ___ edema for the past week and abdominal 
distention likely secondary to cardiac etiology in the setting 
of recent significant weight gain. The patient was also 
prescribed furosemide 20 mg p.o. daily at home and had not been 
taking this medication. There was concern for right heart 
failure in the setting of subacute PE's. RUQ US with patient 
vasculature ruled out portal vein thrombosis. TSH wnl and UA 
w/out proteinuria. The patient received furosemide 20 mg IV on 
___. He has had a 4 kg weight loss since admission with active 
diuresis, and reported symptomatic improvement. He was started 
on Lasix 20 mg p.o. daily, as well as compression stockings, to 
further improve his lower extremity swelling. He was encouraged 
to continue a low salt diet. Echo on ___ showed interval LV 
and aortic dilatation with respect to prior study.

#Hx of Hepatitis C Cirrhosis c/b HCC
#s/p DDLT ___ 
#Elevated transaminases
The patient underwent liver biopsy in ___ which showed no 
evidence of rejection however it did show recurrent hepatitis C. 
The patient's immunosuppressive regimen was clarified 
specifically whether he was on prednisone. His levels were 
generally at goal between ___. He was continued on tacrolimus 
at his previous dosing. Patient had not been taking prednisone 
prior to his admission, but we clarified that he should continue 
taking prednisone 10mg daily at home for dual immunosuppression. 
He was continued on Bactrim SS for PCP ___. Hepatitis 
viral load and CMV viral load pending at time of discharge; 
these should be followed up for consideration of additional 
treatment.

#Nausea: Differential included withdrawal from daily marijuana 
use versus secondary to sedation from procedure. QTC 438 on 
___. The patient was managed with ondansetron 4 mg IV q. 8 as 
needed, and 1 dose of haloperidol 1 mg.

#Toxic Metabolic Encephalopathy
The patient's wife raised concern about increased confusion at 
home. There was no evidence of asterixis. The patient did not 
appear confused while admitted. Confusion may be secondary to 
daily marijuana use. Urine tox was positive for marijuana. Blood 
and urine cultures were negative. 

#Subacute Bilateral Pulmonary Embolism
On warfarin as outpatient. The patient was intermittently on 
heparin drip on
___ for TJ liver biopsy. The patient's warfarin 10 mg p.o. 
daily was restarted on ___. As his level was subtherapeutic at 
1.8 prior to discharge, the patient was discharged on a Lovenox 
bridge. He will continue taking 120 mg every 12 hours of Lovenox 
until he reaches goal INR of ___.

CHRONIC ISSUES:
===============

#Chronic Kidney Disease: Baseline Cr 1.5. At baseline during 
admission. Discharge creatinine 1.3.

#Hypertension: Continued Carvedilol 25mg PO BID.

#Hyperlipidemia: Continue rosuvastatin

#GERD: Continued home famotidine 

TRANSITIONAL ISSUES:
====================
[] MEDICATION CHANGES:
- Added: Enoxaparin (120mg SQ q12h while INR subtherapeutic), 
furosemide 20mg PO daily, multivitamin, polyethylene glycol, 
prednisone 10mg daily, senna QHS.

[] FOLLOW-UP LABS:
- Pt should have INR rechecked on ___ at his ___ 
clinic. Goal INR ___ for treatment of PE's.
- Please draw a CBC, chem10, LFT's, coags weekly starting 
___. Please fax results to the ___ (fax 
___ and Pt's PCP ___, fax ___.

[] INR RECHECK:
- Patient discharged on lovenox as bridge to warfarin. Goal INR 
___.

[] TREATMENT OF METABOLIC SYNDROME:
- The patient's lower extremity edema was likely influenced by 
recent 40 pound weight gain. The patient should be followed by 
nutrition in order to maintain a healthy weight. 
- Also consider further management of blood pressure control, if 
warranted as outpatient.

[] ?EARLY DIASTOLIC HEART FAILURE:
- Pt with LV chamber dilatation on echocardiogram. Consider 
further volume management for possible early heart failure 
versus referral to cardiology.

[] Recurrent Hepatitis C: The patient will need outpatient 
hepatology follow-up to treat his recurrent hepatitis C.

[] Marijuana Use: The patient's marijuana use is likely 
interfering with his ability to take medications regularly and 
there is an interaction with tacrolimus.

[]CODE STATUS: Full (presumed) 
[]CONTACT: ___, wife, ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carvedilol 25 mg PO BID 
2. Docusate Sodium 100 mg PO BID 
3. Famotidine 20 mg PO BID 
4. Fish Oil (Omega 3) 1000 mg PO TID 
5. Rosuvastatin Calcium 10 mg PO QPM 
6. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
7. Tacrolimus 4.5 mg PO Q12H 
8. Warfarin 10 mg PO DAILY16 
9. buprenorphine 20 mcg/hour transdermal ONCE WEEKLY 

 
Discharge Medications:
1.  Enoxaparin Sodium 120 mg SC Q12H 
RX *enoxaparin 120 mg/0.8 mL 120 mg Subcutaneous every twelve 
(12) hours Disp #*14 Syringe Refills:*0 
2.  Furosemide 20 mg PO DAILY 
RX *furosemide 20 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
3.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram 1 powder(s) by mouth Daily 
Disp #*30 Packet Refills:*0 
5.  PredniSONE 10 mg PO DAILY 
RX *prednisone 10 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
6.  Senna 8.6 mg PO QHS 
RX *sennosides 8.6 mg 1 tablet by mouth at bedtime Disp #*30 
Tablet Refills:*0 
7.  buprenorphine 20 mcg/hour transdermal ONCE WEEKLY  
8.  Carvedilol 25 mg PO BID  
9.  Docusate Sodium 100 mg PO BID  
10.  Famotidine 20 mg PO BID  
11.  Fish Oil (Omega 3) 1000 mg PO TID  
12.  Rosuvastatin Calcium 10 mg PO QPM  
13.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
14.  Tacrolimus 4.5 mg PO Q12H  
15.  Warfarin 10 mg PO DAILY16  
16.Outpatient Lab Work
___.60:  Cirrhosis, other
Please draw a CBC, chem10, LFT's, coags weekly starting 
___.  Please fax results to the ___ (fax 
___ and Pt's PCP ___, fax ___.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Lower Extremity Edema
Hepatitis C
Subacute bilateral pulmonary embolism, on warfarin
Substance Abuse
Nausea

Secondary Diagnosis:
Chronic kidney disease 
Hypertension
Hyperlipidemia
Gastroesophageal reflux

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___

WHY WAS I ADMITTED TO THE HOSPITAL?
- You had swelling in your legs and abdomen

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
-You received diuretic medication to remove the extra fluid
-You had a biopsy of your liver, which showed recurrent 
Hepatitis C, and NO rejection
-You had an echocardiogram of your heart.

WHAT SHOULD I DO WHEN I GO HOME?
-Please weigh yourself every morning, before you eat or take 
your medications. ___ your MD if your weight changes by more 
than 3 pounds
-Please stick to a low salt diet and monitor your fluid intake
-Take your medications as prescribed
-Keep your follow up appointments with your team of doctors

___ for letting us be a part of your care!
Your ___ Team

 
Followup Instructions:
___